US07314884B2
(2S)-1-({2-[6-(2-Methoxy-phenyl)-pyridin-2-ylamino]-ethylamino}-acetyl)-pyrrolidine-2-carbonitrile, methansolfonic acid salt
This compound was obtained in analogy to example 36, steps A] to C] starting from 2,6-dibromopyridine, 1,2-diaminoethane, 2-methoxyphenylboronic acid and IIA. The residue obtained by flash chromatography was dissolved in THF and precipitated by treatment with methanesulfonic acid in tert-butyl methyl ether and ethyl acetate yielding a white powder.

reactant | 2,6-dibromopyridine | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 1,2-diaminoethane | NCCN | C2H8N2
reactant | 2-methoxyphenylboronic acid | COC1=C(C=CC=C1)B(O)O | C7H9BO3
solvent | THF | C1CCOC1 | C4H8O
product | (2S)-1-({2-[6-(2-Methoxy-phenyl)-pyridin-2-ylamino]-ethylamino}-acetyl)-pyrrolidine-2-carbonitrile | COC1=C(C=CC=C1)C1=CC=CC(=N1)NCCNCC(=O)N1[C@@H](CCC1)C#N | C21H25N5O2
